US04024183
m-Phenylenediamine (10.8 g.) is dissolved in methylene chloride (500 ml.) at room temperature and a solution of p-chlorophenyl isocyanate (15.35 g.) in methylene chloride (50 ml.) is added dropwise with vigorous stirring. The mixture is stirred for 2 hours after the addition is complete, and the product is filtered off, washed with methylene chloride and dried. This solid thus obtained is crystallized from methanol (3 1.) to give 3-(3-p-chlorophenylureido)aniline, which slowly decomposes on heating to 310° C. without melting, but is analytically pure.

reactant | m-Phenylenediamine | 10.8 g | C1(=CC(=CC=C1)N)N | C6H8N2
reactant | p-chlorophenyl isocyanate | 15.35 g | ClC1=CC=C(C=C1)N=C=O | C7H4ClNO
solvent | methylene chloride | 500 ml | C(Cl)Cl | CH2Cl2
solvent | methylene chloride | 50 ml | C(Cl)Cl | CH2Cl2
product | 3-(3-p-chlorophenylureido)aniline | ClC1=CC=C(C=C1)NC(NC=1C=C(N)C=CC1)=O | C13H12ClN3O
